US04007156
15-stearoyl- 7,15-diazadispiro[5,1,5,3]hexadecane
In a 500 ml. 3-necked flask equipped with stirrer, condenser with drying tube, thermometer, dropping funnel and nitrogen inlet was placed a solution of 15.6 g. (0.07 moles) of 7,15-diazadispiro[5,1,5,3]hexadecane in 150 ml. of dry pyridine. Under a dry nitrogen atmosphere, the solution was cooled to 5° C with an external ice bath and a solution of 21.2 g. (0.07 moles) of stearoyl chloride in 50 ml. of hexane was added dropwise with stirring over a 20 minute period. The reaction mixture was then allowed to warm to room temperature and stir for about 16 hours. The reaction mixture was filtered and the filtrate was taken up in ether, washed well with water, then with 2N NaOH solution. The filtrate was again filtered by suction, and the ether solution dried over anhydrous sodium sulfate and concentrated to dryness under reduced pressure. The residue was recrystallized from acetonitrile, yielding colorless crystals, m.p. 56°-59° C.

reactant | 7,15-diazadispiro[5,1,5,3]hexadecane | 0.07 moles | C1CCCCC12NC1(CCCCC1)CNC2 | C14H26N2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | stearoyl chloride | 0.07 moles | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | hexane | CCCCCC | C6H14
product | 15-stearoyl- 7,15-diazadispiro[5,1,5,3]hexadecane | C(CCCCCCCCCCCCCCCCC)(=O)N1CC2(NC3(CCCCC3)C1)CCCCC2 | C32H60N2O
